US09193693B2
Step 2. 3-Phenyl-2-(piperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-phenyl-2-(piperidin-1-yl)quinoxaline-6-carboxylate (170.9 mg, 0.49 mmol, 1.00 equiv) in methanol (12 mL), sodium hydroxide (98.5 mg, 2.46 mmol, 5.00 equiv). The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 86 mg (52%) of 3-phenyl-2-(piperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-phenyl-2-(piperidin-1-yl)quinoxaline-6-carboxylate | 0.49 mmol, 170.9 mg, 1.00 equiv | C1(=CC=CC=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)N1CCCCC1 | C21H21N3O2
reactant | sodium hydroxide | 2.46 mmol, 98.5 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
product | 3-Phenyl-2-(piperidin-1-yl)quinoxaline-6-carboxylic acid | C1(=CC=CC=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)N1CCCCC1 | C20H19N3O2
